US04097472
A suspension of 2.00 g of N2 -(6,7-dimethoxy-2-naphthylsulfonyl)-L-arginyl-N-(2-methoxyethyl)glycine in 20 ml of thionyl chloride was stirred for 2 hours at room temperature. Addition of cold dry ethyl ether resulted in a precipitate which was collected by filtration and washed several times with dry ethyl ether to give N2 -(6,7-dimethoxy-2-naphthylsulfonyl)-L-arginyl-N-(2-methoxyethyl)glycyl chloride hydrochloride.

reactant | N2 (6,7-dimethoxy-2-naphthylsulfonyl)-L-arginyl-N-(2-methoxyethyl)glycine | 2.00 g | N#N.COC=1C=C2C=CC(=CC2=CC1OC)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)N(CC(=O)O)CCOC
reactant | ethyl ether | C(C)OCC | C4H10O
reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
product | N2 (6,7-dimethoxy-2-naphthylsulfonyl)-L-arginyl-N-(2-methoxyethyl)glycyl chloride hydrochloride | N#N.Cl.COC=1C=C2C=CC(=CC2=CC1OC)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)N(CC(=O)Cl)CCOC | InChI=1S/C23H32ClN5O7S.ClH.N2/c1-34-10-9-29(14-21(24)30)22(31)18(5-4-8-27-23(25)26)28-37(32,33)17-7-6-15-12-19(35-2)20(36-3)13-16(15)11-17;;1-2/h6-7,11-13,18,28H,4-5,8-10,14H2,1-3H3,(H4,25,26,27);1H;/t18-;;/m0../s1
